US08236806B2
1-(2-fluorophenyl)-4-(3-(1-phenyl-3-methyl-1H-pyrazol-5-yl)propyl)piperazine (Compound 122)
85 mg (83%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-phenyl-3-methyl-1H-pyrazol-5-yl)propanal (58 mg, 0.268 mmol), 1-(2-fluorophenyl)piperazine (52 mg, 0.289 mmol), DIPEA (0.070 mL, 0.403 mmol) and NaBH(OAc)3 (171 mg, 0.805 mmol).

reactant | 3-(1-phenyl-3-methyl-1H-pyrazol-5-yl)propanal | 0.268 mmol, 58 mg | C1(=CC=CC=C1)N1N=C(C=C1CCC=O)C | C13H14N2O
reactant | 1-(2-fluorophenyl)piperazine | 0.289 mmol, 52 mg | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | DIPEA | 0.403 mmol, 0.070 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.805 mmol, 171 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(2-fluorophenyl)-4-(3-(1-phenyl-3-methyl-1H-pyrazol-5-yl)propyl)piperazine | FC1=C(C=CC=C1)N1CCN(CC1)CCCC1=CC(=NN1C1=CC=CC=C1)C | C23H27FN4
